US07459554B2
3-Cyclobutyl-1-phenylimidazo[1,5-a]pyrazin-8-ylamine:
Gaseous NH3 was condensed into a cooled (−78° C.) solution of 8-chloro-3-cyclobutyl-1-phenylimidazo[1,5-a]pyrazine (602.9 mg, 2.125 mmol) in NH3/i-PrOH (2M, 15 mL) in a pressure tube until the volume had doubled. The tube was sealed and heated to 110° C. for 2 d. After excess NH3/i-PrOH was removed in vacuo, the residue was extracted with CH2Cl2 (3×30 mL), and the combined organic layers were washed with brine (3×30 mL), dried over anhydrous MgSO4, filtered, and concentrated. The material obtained (670 mg) was recrystallized from EtOAc, granting 393.3 mg (70%, 1.488 mmol) of the title compound, as pale pink crystals. The mother liquor was reduced ca. 50% in vacuo and again recrystallized from EtOAc, affording an additional 38.4 mg (7%, 0.145 mmol) of the title compound, as pink crystals, >99% pure by HPLC; mp. 164-166° C.; 1H NMR (CDCl3, 400 MHz) δ 1.98-2.09 (m, 1H), 2.11-2.23 (m, 1H), 2.44-2.54 (m, 2H), 2.58-2.70 (m, 2H), 3.82 (quint, J=8.4 Hz, 1H), 5.02 (s, br, —NH2), 7.05 (d, J=4.8 Hz, 1H), 7.12 (d, J=5.2 Hz, 1H), 7.38-7.43 (m, 1H), 7.46-7.53 (m, 2H), 7.65-7.70 (m, 2H). 13C NMR (CDCl3, 100.6 MHz, DEPT135): δ 18.87 (−), 26.94 (2C, −), 31.48 (+), 106.61 (+), 113.93 (Cquart), 127.43 (+), 128.08 (+), 128.81 (2C, +), 129.67 (2C, +), 134.87 (Cquart), 135.32 (Cquart), 143.90 (Cquart), 151.75 (Cquart). MS (ES+): m/z 265.2 (100) [MH+].

reactant | NH3 | N | H3N
reactant | 8-chloro-3-cyclobutyl-1-phenylimidazo[1,5-a]pyrazine | 2.125 mmol, 602.9 mg | ClC=1C=2N(C=CN1)C(=NC2C2=CC=CC=C2)C2CCC2 | C16H14ClN3
solvent | NH3 i-PrOH | 2M, 15 mL | N.CC(C)O
product | 3-Cyclobutyl-1-phenylimidazo[1,5-a]pyrazin-8-ylamine | 1.488 mmol, 393.3 mg, 70% | C1(CCC1)C1=NC(=C2N1C=CN=C2N)C2=CC=CC=C2 | C16H16N4
